US03933845
To a solution of 1 part of 5-[5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-yl]tetrazole in 50 parts of ethanol was added 5 parts of Raney nickel catalyst. The resulting mixture was hydrogenated at 20°C and 45 lbs/sq. in. pressure for 8 hours. The catalyst was filtered off and the filtrate was evaporated to give an oil which solidified on trituration with petroleum ether (b.p. 40°-60°C). This solid was crystallised from a mixture of ethyl acetate and petroleum ether (b.p. 40°-60°C) to give 0.2 parts of 5-[2,3-dihydro-5-(3-methylbutoxy)-4-oxo-4H-1-benzopyran-2-yl]tetrazole as a white solid, m.p. 134°-137°C. The structure of this product was confirmed by n.m.r. and m.s. measurements.

reactant | 5-[5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-yl]tetrazole | CC(CCOC1=CC=CC2=C1C(C=C(O2)C2=NN=NN2)=O)C | C15H16N4O3
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 5-[2,3-dihydro-5-(3-methylbutoxy)-4-oxo-4H-1-benzopyran-2-yl]tetrazole | CC(CCOC1=CC=CC2=C1C(CC(O2)C2=NN=NN2)=O)C | C15H18N4O3
